US04303660
1-Nitro-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline
A mixture of 20.4 g (0.1 mole) of 5-(o-aminophenyl)-4-nitropyrazole, 300 ml of acetone and 0.3 ml of acetic acid is heated under reflux for 1 hour. After evaporation, 24.0 g (98.5%) of 1-nitro-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline are obtained. M.p.: 193°-195° C.

reactant | 5-(o-aminophenyl)-4-nitropyrazole | 0.1 mole, 20.4 g | NC1=C(C=CC=C1)C1=C(C=NN1)[N+](=O)[O-] | C9H8N4O2
reactant | acetone | 300 ml | CC(=O)C | C3H6O
solvent | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
product | 1-Nitro-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)(C)C | C12H12N4O2
